US09340544B2
(6-Chloro-pyridin-3-yl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine
Was prepared according to Example 8 from (2-chloro-9-methyl-9H-purin-6-yl)(6-chloro-pyridin-3-yl)-amine and hydrazine monohydrate.

reactant | (2-chloro-9-methyl-9H-purin-6-yl)(6-chloro-pyridin-3-yl)-amine | ClC1=NC(=C2N=CN(C2=N1)C)NC=1C=NC(=CC1)Cl | C11H8Cl2N6
reactant | hydrazine monohydrate | O.NN
product | (6-Chloro-pyridin-3-yl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | ClC1=CC=C(C=N1)NC1=C2N=CN(C2=NC(=N1)NN)C | C11H11ClN8
